* D:\Data\OwnCloud\Accelad\Business\Prospection\Magneti Marelli\Démo\Schema SPICE.asc
C1 N016 N018 10n
C2 N018 0 10n
C3 N017 0 330µ
C4 N017 0 10µ
L1 N017 SW 56.4µ
C5 OUT 0 10µ
C6 OUT 0 330µ
V1 N016 0 PWL(1m 12 2m 3 53m 3 58m 12)
R1 N007 0 4.7k
R2 N005 N007 15
R3 0 N005 470
Q1 BOOSTER_FB N001 N005 0 BC817-40
Q2 0 N001 N005 0 BC807-40
R4 BOOSTER_5V N001 4.7k
C7 N002 N004 110p
R5 BOOSTER_5V N002 1.5k
R6 N003 N002 50.4k
R7 N006 N002 49.4k
R8 N006 N009 10k
D4 N009 N002 BAS16
R9 N004 0 99k
R10 BOOSTER_5V N004 101k
R11 BOOSTER_FB N013 44.65k
R12 N013 N014 99k
R13 N014 0 101k
R14 N012 N015 100k
R15 N011 N012 100k
R16 N010 N011 100k
R17 N008 N010 100k
R18 N015 N014 47k
C8 BOOSTER_FB N014 1n
C9 N014 N004 110p
R19 BOOSTER_5V N003 50.4k
R20 N003 0 49.4k
C10 N006 N003 90p
R21 N006 0 1.5Meg
C11 N006 0 198p
V2 BOOSTER_5V 0 5
V3 BOOSTER_FB OUT 0.5
XU5 N003 N006 BOOSTER_5V 0 N008 LM2901
XU4 N003 N006 BOOSTER_5V 0 N002 LM2901
XU6 N002 N004 BOOSTER_5V 0 N001 LM2901
XU7 N004 N014 BOOSTER_5V 0 N002 LM2901
I1 OUT 0 1
XU1 SW N007 0 BUK98150-55A
D1 N016 OUT MBRS340T
D2 N016 N017 MBRS340T
D3 SW OUT MBRS340T
.model D D
.lib C:\Users\Yoann\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Yoann\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m
.meas test MIN V(out) FROM 0.001 TO 0.01
.lib C:\temp\LM2901.txt
.lib D:\Tools\LTspice XVII\mymodels\MagnetiMarelli\BUK98150_55A.txt
.backanno
.end
